US05536869
The p-toluenesulfonic acid salt of (±)1,1-dimethylethyl 3-amino-5-(trimethylsilyl)-4-pentynoate is prepared by treating p-toluenesulfonic acid with (±)1,1-dimethylethyl 3-amino-5-(trimethylsilyl)-4-pentynoate, the product of step 2, in the presence of MTBE/heptane. The resulting reaction mixture is then heated to 55°-60° C. for one hour, cooled, filtered and dried to give (±) 1,1,-dimethylethyl 3-amino-5-(trimethylsilyl)-4-pentynoate, mono p-toluenesulfonic acid salt. The (±)1,1-dimethylethyl 3-amino-5-(trimethylsilyl)-4-pentynoate mono p-toluenesulfonic acid salt is treated with ethanol in the presence an organic acid or an inorganic acid at reflux temperature. The reaction mixture is then cooled to ambient temperature, concentrated and treated with methyl t-butyl ether and a suitable aqueous base to give ethyl 3-amino-5-(trimethylsilyl)-4-pentynoate. Suitable inorganic acid agents are exemplified by sulfuric acid and hydrochloric acid and suitable organic acid agents are exemplified by camphorsulfonic acid and p-toluenesulfonic acid with p-toluenesulfonic acid being preferred. Suitable aqueous bases are exemplified by sodium bicarbonate, sodium carbonate, sodium hydroxide with sodium bicarbonate being preferred. Other alkanol solvents such as methanol, isopropanol, butanol and pentanol would also be suitable for the practice of this invention. However, it is to be understood that the use of a different alkanol solvent would give a different ester i.e. use of methanol for ethanol would give the corresponding methyl ester.

reactant | (±)1,1-dimethylethyl 3-amino-5-(trimethylsilyl)-4-pentynoate mono p-toluenesulfonic acid salt | C1(=CC=C(C=C1)S(=O)(=O)O)C.NC(CC(=O)OC(C)(C)C)C#C[Si](C)(C)C
solvent | ethanol | C(C)O | C2H6O
product | ethyl 3-amino-5-(trimethylsilyl)-4-pentynoate | NC(CC(=O)OCC)C#C[Si](C)(C)C | C10H19NO2Si
